US07777047B2
N-{2-[5-(2-hydroxyethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methyl-2-(trifluoromethyl)benzenesulfonamide
To a mixture of ethyl {2-[7-(methyl{[2-(trifluoromethyl)phenyl]sulfonyl}amino)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate (1.4 g), lithium borohydride (0.30 g) and tetrahydrofuran (20 mL) was added methanol (3 mL), and the mixture was stirred at room temperature for 3 hr. Aqueous citric acid solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=5:5-7:3), and the obtained pale-yellow oil was crystallized from ethyl acetate-hexane to give the title compound (0.79 g, yield: 61%) as colorless needle crystals. MS: 484 (MH+). melting point 153-154° C.

reactant | ethyl {2-[7-(methyl{[2-(trifluoromethyl)phenyl]sulfonyl}amino)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate | 1.4 g | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)OCC)S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F | C23H22F3N3O4S2
reactant | lithium borohydride | 0.30 g | [BH4-].[Li+]
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 3 mL | CO | CH4O
product | N-{2-[5-(2-hydroxyethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methyl-2-(trifluoromethyl)benzenesulfonamide | 0.79 g, yield: 61% | OCCC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F)C | C21H20F3N3O3S2
